US06248740B1
Production of ethyl 2-[6-[3-[4-(hydroxydiphenylmethyl) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride
427 mg of 4-(hydroxydiphenylmethyl)-1-piperidinepropanamine and 235 mg of ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate were stirred at 160° C. for 3.5 hours. After cooling, ethanol and saturated aqueous sodium bicarbonate were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The solution was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methnol:triethylamine (50:5:1). The desired fraction was collected, concentrated, dissolved in 5 ml of ethyl acetate; 0.23 ml of 4N-hydrogenchloride in ethyl acetate was added, followed by concentration. Ethylether was added to the residue; the powder was collected by filtration and dried to yield 216 mg of the title compound. amorphous

reactant | 4-(hydroxydiphenylmethyl)-1-piperidinepropanamine | 427 mg | OC(C1CCN(CC1)CCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H28N2O
reactant | ethyl 2-(6-chloroimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 235 mg | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[6-[3-[4-(hydroxydiphenylmethyl) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride | 216 mg | Cl.Cl.OC(C1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C33H41N5O3.2ClH/c1-4-41-31(39)32(2,3)28-24-38-30(35-28)17-16-29(36-38)34-20-11-21-37-22-18-27(19-23-37)33(40,25-12-7-5-8-13-25)26-14-9-6-10-15-26;;/h5-10,12-17,24,27,40H,4,11,18-23H2,1-3H3,(H,34,36);2*1H
